US04282372
A mixture of 3-allyl-4-methyl-4,5-epoxypentan-2-one (4.5 g) and glass powder (0.90 g) was stirred at a bath temperature of 220° C. for 10 hours in a nitrogen gas stream. After reaction, ether was added to the reaction mass, followed by drying over anhydrous magnesium sulfate. After removing the solvent by evaporation, the residue was distilled under reduced pressure to obtain 3.2 g of 2,4-dimethyl-3-allylfuran as a pale yellow oil.

reactant | 3-allyl-4-methyl-4,5-epoxypentan-2-one | 4.5 g | C(C=C)C(C(C)=O)C1(CO1)C | C9H14O2
solvent | ether | CCOCC | C4H10O
product | 2,4-dimethyl-3-allylfuran | 3.2 g, Yield: 80.5% | CC=1OC=C(C1CC=C)C | C9H12O
